US05356558
2-Bromo-1,3-difluoro-4-iodobenzene (20 g) was dissolved in diethylamine (30 ml) under nitrogen atmosphere, and then bis(triphenylphosphine)palladium(II) chloride (0.06 g) and copper(I) iodide (0.06 g) were added thereto, followed by stirring. The flask was cooled to 5° C. or lower, and then 4-propylphenylacetylene (10 g) was added dropwise thereto. After stirring at room temperature for 5 hours, the reaction solution was poured into a mixture of concentrated hydrochloric acid (15 ml) and ice (30 g). After extraction with chloroform, the resultant was washed with water twice, followed by distilling off chloroform. The residue was distilled under reduced pressure (b.p. 185° to 192° C./4 mmHg), and then recrystallized from a mixed solvent of acetone and methanol to give 4-bromo-3,5-difluoro-4'-propyltolane (12 g).

reactant | 2-Bromo-1,3-difluoro-4-iodobenzene | 20 g | BrC1=C(C=CC(=C1F)I)F | C6H2BrF2I
reactant | 4-propylphenylacetylene | 10 g | C(CC)C1=CC=C(C=C1)C#C | C11H12
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | diethylamine | 30 ml | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.06 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.06 g | [Cu]I
product | 4-bromo-3,5-difluoro-4'-propyltolane | 12 g | BrC1=C(C=C(C=C1F)C#CC1=CC=C(C=C1)CCC)F | C17H13BrF2
